US08580794B2
3-cyano-4-((tetrahydro-2H-pyran-4-yl)methylamino)benzenesulfonamide
The title compound was prepared by substituting EXAMPLE 52A for 4-chloro-3-nitrobenzenesulfonamide and (tetrahydro-2H-pyran-4-yl)methanamine for 4-methylpiperazin-1-amine dihydrochloride in EXAMPLE 6A.

reactant | 4-chloro-3-nitrobenzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | (tetrahydro-2H-pyran-4-yl)methanamine | O1CCC(CC1)CN | C6H13NO
reactant | 4-methylpiperazin-1-amine dihydrochloride | Cl.Cl.CN1CCN(CC1)N
product | 3-cyano-4-((tetrahydro-2H-pyran-4-yl)methylamino)benzenesulfonamide | C(#N)C=1C=C(C=CC1NCC1CCOCC1)S(=O)(=O)N | C13H17N3O3S
